US06610734B2
B. (2S)-2-Amino-2-(2,3-dihydro-1H-inden-2-yl)ethanol
20% Piperidine in DMF (15 mL) was added to a solution of 9 H-fluoren-9-ylmethyl-(1S)-1-(2,3-dihydro-1H-inden-2-yl)-2-hydroxyethylcarbamate (1.05 g, 2.63 mmol) in DMF (5 mL). The reaction was stirred at 25° C. for 19 h. After solvent evaporation, the crude product was dissolved in ethyl acetate (50 mL) and dried over MgSO4, filtered and concentrated to obtain a crude yellow oil (1.05 g). Mass Spectrum (+ESI): 179 (M+H)+.

reactant | Piperidine | N1CCCCC1 | C5H11N
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (2S)-2-Amino-2-(2,3-dihydro-1H-inden-2-yl)ethanol | 1.05 g | N[C@H](CO)C1CC2=CC=CC=C2C1 | C11H15NO
